US05731322
N,N-Dimethyl-2-phenylhydrazono-3-oxobutyramide
4.5 g (0.035 mol) of N,N-dimethyl-3-oxobutyramide, a solution of 4.9 g (0.122 mol) of NaOH in 45 ml of water and 0.037 mol of phenyldiazonium chloride were treated as described in preparation 8. The crude reaction mixture was purified by chromatography on silica gel (hexane/Et2O 0%→100%) obtaining 3.5 g of the title compound which was used as such in the subsequent step. M.p.=131°-133° C.

reactant | N,N-dimethyl-3-oxobutyramide | 0.035 mol, 4.5 g | CN(C(CC(C)=O)=O)C | C6H11NO2
reactant | NaOH | 0.122 mol, 4.9 g | [OH-].[Na+]
reactant | phenyldiazonium chloride | 0.037 mol | [Cl-].C1(=CC=CC=C1)[N+]#N
solvent | water | 45 ml | O | H2O
product | N,N-Dimethyl-2-phenylhydrazono-3-oxobutyramide | 3.5 g | CN(C(C(C(C)=O)=NNC1=CC=CC=C1)=O)C | C12H15N3O2
